US04267176
A solution of pivaloyl chloride (1.07 g.) in methylene chloride (3 ml.) was added to a solution of 2-(6-Formamidopyridin-2-yl)acetic acid (1.6 g.) and 1,5-diazabicyclo[5,4,0]undecene-5(1.35 g.) in methylene chloride (25 ml.) at -20° to -25° C., and stirred at the same temperature for one hour [solution A]. On the other hand, a solution of 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (3.24 g.) and 1,5-diazabicyclo[5,4,0]undecene-5 (1.35 g.) in methylene chloride (60 ml.) was stirred at room temperature for 10 minutes. To the solution was added the above solution A at -20° to -25° C. and stirred at the same temperature for 1.5 hours. After removing the solvent from the resultant solution, ethyl acetate, water and sodium bicarbonate were added to the residue. The aqueous layer was separated and washed with ethyl acetate. Ethyl acetate (300 ml.) was added to the aqueous solution, adjusted to pH 2 to 3 with 5% hydrochloric acid, and then shaken sufficiently. The ethyl acetate layer was separated, washed with water and concentrated under reduced pressure to give 7-[2-(6-formamidopyridin-2-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (2.2 g.).

reactant | pivaloyl chloride | 1.07 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 2-(6-Formamidopyridin-2-yl)acetic acid | 1.6 g | C(=O)NC1=CC=CC(=N1)CC(=O)O | C8H8N2O3
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.24 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(6-formamidopyridin-2-yl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.2 g | C(=O)NC1=CC=CC(=N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C18H18N8O5S2
